US08686024B2
(3) Synthesis of N-(cyclohexylmethyl)-N-methylamine monohydrochloride
To a solution of tert-butyl N-(cyclohexylmethyl)-N-methylcarbamate (370 mg, 1.6 mmol) in 4.0 mL of ethyl acetate was added 4 M HCl-ethyl acetate (4 mL). After being stirred at room temperature for 1.5 h, the reaction mixture was concentrated in vacuo, and the residue was rinsed with hexane to obtain the title compound (266 mg, 100%).

reactant | tert-butyl N-(cyclohexylmethyl)-N-methylcarbamate | 1.6 mmol, 370 mg | C1(CCCCC1)CN(C(OC(C)(C)C)=O)C | C13H25NO2
reactant | HCl ethyl acetate | 4 M, 4 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
product | N-(cyclohexylmethyl)-N-methylamine monohydrochloride | 266 mg, 100% | Cl.C1(CCCCC1)CNC | InChI=1S/C8H17N.ClH/c1-9-7-8-5-3-2-4-6-8;/h8-9H,2-7H2,1H3;1H
